US09107916B2
A. 2-[5-(benzyloxy)-3-methyl-1H-pyrazol-1-yl]pyridine-4-carbonitrile
To a solution of 2-(5-hydroxy-3-methyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile (300 mg, 1.5 mmol) and K2CO3 (518 mg, 3.75 mmol) in DMF was added benzyl bromide (308 mg, 1.8 mmol) dropwise at −20° C., then the mixture was warmed to 0° C. and stirred for 3 h. Water was added, and the reaction mixture was extracted with EtOAc, then washed with water and brine. The organic phase was dried, concentrated, and purified by prep-HPLC to afford the title compound (20 mg). [M+H] calc'd for C17H14N4O 291. Found, 291.

reactant | 2-(5-hydroxy-3-methyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile | 1.5 mmol, 300 mg | OC1=CC(=NN1C1=NC=CC(=C1)C#N)C | C10H8N4O
reactant | K2CO3 | 3.75 mmol, 518 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 1.8 mmol, 308 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[5-(benzyloxy)-3-methyl-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 20 mg | C(C1=CC=CC=C1)OC1=CC(=NN1C1=NC=CC(=C1)C#N)C | C17H14N4O
